US08871790B2
Compound 348.1. 2-Hydroxy-6-methyl-5-nitronicotinic acid
To a solution of 2-hydroxy-6-methylnicotinic acid (14.0 g, 91.5 mmol, 1.00 equiv) in sulfuric acid (conc.) (140 mL) at 0° C. was added dropwise a solution of HNO3 (12.0 g, 190 mmol, 2.00 equiv) in sulfuric acid (conc.) (10 mL). The resulting mixture was then stirred for 2 h at 90° C., cooled to ambient temperature, and then quenched with 250 mL of ice water. The resulting solids were collected by filtration and dried in an oven under reduced pressure to yield 15.8 g (87%) of the title compound as a yellow solid.

reactant | 2-hydroxy-6-methylnicotinic acid | 91.5 mmol, 14.0 g, 1.00 equiv | OC1=C(C(=O)O)C=CC(=N1)C | C7H7NO3
reactant | HNO3 | 190 mmol, 12.0 g, 2.00 equiv | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 140 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 2-Hydroxy-6-methyl-5-nitronicotinic acid | 15.8 g, 87% | OC1=C(C(=O)O)C=C(C(=N1)C)[N+](=O)[O-] | C7H6N2O5
